US07727985B2
N-[6-chloro-4-(2,2,2-trifluoro-acetylamino)-9H-β-carbolin-8-yl]-nicotinamide (41 mg, 0.092 mmol, 1 equiv.) was suspended in 5 ml of MeOH and a 2 ml aqueous solution of K2CO3 (127 mg, 0.92 mmol, 10 equiv.) was added thereto. The resulting clear solution was heated at 60° C. for 16 hr and then allowed to cool to RT. Additional water was added producing fine solids that were captured by filtration, washed once with 10 ml of 5% MeOH in Et2O, and dried under high vacuum to give 18 mg of N-(4-amino-6-chloro-9H-β-carbolin-8-yl)-2-methyl-nicotinamide as powdery yellow solids (56% yield).

reactant | N-[6-chloro-4-(2,2,2-trifluoro-acetylamino)-9H-β-carbolin-8-yl]-nicotinamide | 0.092 mmol, 41 mg, 1 equiv. | ClC=1C=C2C=3C(=CN=CC3NC2=C(C1)NC(C1=CN=CC=C1)=O)NC(C(F)(F)F)=O | C19H11ClF3N5O2
reactant | K2CO3 | 0.92 mmol, 127 mg, 10 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | MeOH | 5 ml | CO | CH4O
product | N-(4-amino-6-chloro-9H-β-carbolin-8-yl)-2-methyl-nicotinamide | 18 mg, 56% yield | NC1=CN=CC=2NC3=C(C=C(C=C3C12)Cl)NC(C1=C(N=CC=C1)C)=O | C18H14ClN5O
